US07662974B2
Preparation of ethyl trifluoro-3-hydroxy-3-phenylbutanoate
Under argon atmosphere, 20 mL (10.7 mmol, 2 equivalents) of the solution of ethyl bromozincacetate in tetrahydrofuran obtained in Example 43 was added dropwise to a solution of 0.75 mL (5.35 mmol) of trifluoroacetophenone in 2.75 mL of THF at 7˜9° C. The mixture was stirred at 4˜5° C. for 4 hours. 10 mL of 1N hydrochloric acid was added dropwise at 20° C. or lower, followed by dilution with 30 mL of ethyl acetate. Then, the layers were separated. The organic layer was washed successively with 5 mL (×2) of 1N hydrochloric acid, 5 mL of water, 5 mL (×2) of an aqueous saturated sodium bicarbonate solution, and 5 mL (×2) of an aqueous saturated sodium chloride solution. After washing, the organic layer was dried with anhydrous magnesium sulfate. Concentration under reduced pressure afforded 1.54 g of the desired product (NMR yield 97%; internal standard dioxane).

reactant | trifluoroacetophenone | 5.35 mmol, 0.75 mL | FC(C(=O)C1=CC=CC=C1)(F)F | C8H5F3O
reactant | hydrochloric acid | 1N, 10 mL | Cl | ClH
reactant | ethyl acetate | 30 mL | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | THF | 2.75 mL | C1CCOC1 | C4H8O
product | ethyl trifluoro-3-hydroxy-3-phenylbutanoate | 1.54 g, yield 97% | FC(C(CC(=O)OCC)(C1=CC=CC=C1)O)(F)F | C12H13F3O3
